US05650533
Ethyl 4-chloro-2-fluoro-3-(1-t-butyltrimethylsilyloxyethyl)benzoate (25 g) and tetrabutylammonium fluoride (210 ml of 1.0M solution in THF) were dissolved in THF and stirred for 4 hours at room temperature. The mixture was diluted with ether and washed with water. The organic extract was dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness yielding ethyl 4-chloro-2-fluoro-3-(1-hydroxyethyl)benzoate (16.8 g) as a clear oil, NMR (CDCl3) 1.3(t,3H), 1.5(d,3H), 2.5(bs, 1H), 4.3(q,2H), 5.3(q, 1H), 7.1(d, 1H), 7.7(t, 1H).

reactant | Ethyl 4-chloro-2-fluoro-3-(1-t-butyltrimethylsilyloxyethyl)benzoate | 25 g | ClC1=C(C(=C(C(=O)OCC)C=C1)F)C(CO[Si](C)(C)C)C(C)(C)C | C18H28ClFO3Si
reactant | tetrabutylammonium fluoride | 1.0M, 210 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | ethyl 4-chloro-2-fluoro-3-(1-hydroxyethyl)benzoate | 16.8 g | ClC1=C(C(=C(C(=O)OCC)C=C1)F)C(C)O | C11H12ClFO3
